US08580957B2
A solution of 1,1-dimethylethyl((2S,4R)-1-acetyl-2-methyl-6-{[tris(1-methylethyl)silyl]ethynyl}-1,2,3,4-tetrahydro-4-quinolinyl)carbamate (for a preparation see Intermediate 107) (1.96 g, 4.04 mmol) in 1,4-dioxane (10 mL) at room temperature was treated with HCl (4N in dioxane, 20 mL, 80 mmol) and the resulting mixture was stirred at this temperature for 7 h then the solvent was removed in vacuo. The residue was triturated with Et2O then filtered off and dried under house vacuum to give (2S,4R)-1-acetyl-2-methyl-6-{[tris(1-methylethyl)silyl]ethynyl}-1,2,3,4-tetrahydro-4-quinolinamine hydrochloride (1.28 g, 3.04 mmol, 75% yield) as a white solid. The mother liquors were concentrated in vacuo to give (2S,4R)-1-acetyl-2-methyl-6-{[tris(1-methylethyl)silyl]ethynyl}-1,2,3,4-tetrahydro-4-quinolinamine hydrochloride (396 mg, 0.940 mmol, 23.26% yield) as a very pale yellow foam.

reactant | 1,1-dimethylethyl((2S,4R)-1-acetyl-2-methyl-6-{[tris(1-methylethyl)silyl]ethynyl}-1,2,3,4-tetrahydro-4-quinolinyl)carbamate | CC(C)(C)N(C([O-])=O)[C@@H]1C[C@@H](N(C2=CC=C(C=C12)C#C[Si](C(C)C)(C(C)C)C(C)C)C(C)=O)C
reactant | HCl | 80 mmol, 4N, 20 mL | Cl | ClH
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | (2S,4R)-1-acetyl-2-methyl-6-{[tris(1-methylethyl)silyl]ethynyl}-1,2,3,4-tetrahydro-4-quinolinamine hydrochloride | 3.04 mmol, 1.28 g, 75% yield | Cl.C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C#C[Si](C(C)C)(C(C)C)C(C)C)N)C | InChI=1S/C23H36N2OSi.ClH/c1-15(2)27(16(3)4,17(5)6)12-11-20-9-10-23-21(14-20)22(24)13-18(7)25(23)19(8)26;/h9-10,14-18,22H,13,24H2,1-8H3;1H/t18-,22+;/m0./s1
